US09290485B2
a) 6-Amino-4-(cyclohexyloxy)-2-methylnicotinonitrile
To a mixture of sodium 6-amino-3-cyano-2-methylpyridin-4-olate (300 mg, 1.75 mmol) and K2CO3 (485 mg, 3.51 mmol) in DMF (6 ml) was added Cyclohexenylbromide (0.213 ml, 1.84 mmol) and the reaction mixture was stirred at it for 14 h. NaHCO3 (100 ml) was added and the mixture was extracted with EA (5×30 ml). The combined organic extracts were dried over Na2SO4, filtered and concentrated. The resulting product was dissolved in n-PrOH (10 ml), and hydrogenated (1 atm H2, rt) for 1 h over Pd/C (93 mg, 0.088 mmol). The reaction mixture was filtered and the filtrate was adsorbed on celite. Purification by column chromatography (CombiFlash Companion, 10 g SiO2, DCM to DCM:MeOH 9:1) afforded the desired product. LCMS RtM=1.63 min, [M+H]+=232.6.

reactant | sodium 6-amino-3-cyano-2-methylpyridin-4-olate | 1.75 mmol, 300 mg | NC1=CC(=C(C(=N1)C)C#N)[O-].[Na+]
reactant | K2CO3 | 3.51 mmol, 485 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Cyclohexenylbromide | 1.84 mmol, 0.213 ml | C1(=CCCCC1)Br | C6H9Br
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | 0.088 mmol, 93 mg | [Pd] | Pd
product | 6-Amino-4-(cyclohexyloxy)-2-methylnicotinonitrile | NC1=NC(=C(C#N)C(=C1)OC1CCCCC1)C | C13H17N3O
